US06440995B1
(RS)-3-[2-(3,4-Dimethyl-phenyl)-quinolin-4-ylamino]-propane-1,2-diol hydrochloride
The title compound, m.p. 248° C. and MS: m/e=322 (M+), was prepared 4-chloro-2-(3,4-dimethyl-phenyl)-quinoline and (RS)-3-amino-1,2-propandiol.

reactant | 4-chloro-2-(3,4-dimethyl-phenyl)-quinoline | ClC1=CC(=NC2=CC=CC=C12)C1=CC(=C(C=C1)C)C | C17H14ClN
reactant | (RS)-3-amino-1,2-propandiol | NCC(CO)O | C3H9NO2
product | (RS)-3-[2-(3,4-Dimethyl-phenyl)-quinolin-4-ylamino]-propane-1,2-diol hydrochloride | Cl.CC=1C=C(C=CC1C)C1=NC2=CC=CC=C2C(=C1)NCC(CO)O | InChI=1S/C20H22N2O2.ClH/c1-13-7-8-15(9-14(13)2)19-10-20(21-11-16(24)12-23)17-5-3-4-6-18(17)22-19;/h3-10,16,23-24H,11-12H2,1-2H3,(H,21,22);1H
